US05977105
(±)-α-(2-(7-(2-Propenyloxy)naphthyloxymethyl)-3-pyridinepropanol
Prepared according to the method described in Example 5 from 2-(2-propenyloxy)-7-hydroxynaphthalene (1.27 g; J. Org. Chem., (1981) 46, 4988), sodium hydride (60% dispersion in oil; 0.25 g) and (±)-3-(2-oxiranylethyl)pyridine (1.0 g) in dimethylformamide (20 ml) at room temperature to yield the title compound as an oil (0.410 g).

reactant | 2-(2-propenyloxy)-7-hydroxynaphthalene | 1.27 g | C(C=C)OC1=CC2=CC(=CC=C2C=C1)O | C13H12O2
reactant | sodium hydride | 0.25 g | [H-].[Na+]
reactant | (±)-3-(2-oxiranylethyl)pyridine | 1.0 g | O1C(C1)CCC=1C=NC=CC1 | C9H11NO
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(7-(2-Propenyloxy)naphthyloxymethyl)-3-pyridinepropanol | 0.410 g | C(C=C)OC1=CC=C2C=CC=C(C2=C1)OCC1=NC=CC=C1CCCO | C22H23NO3
